US06051733
Preparation of GDMA/Methacrylic Acid (MAA) Product by Photoinitiation
GDMA (556.8 g, 5.15 eq.) was weighed into a 2000 ml, three neck, round bottom flask. MAA (442.9 g, 5.15 eq.) and Irgacure 184 (1.5 g) were weighed into a 500 ml addition funnel equipped with a Teflon stop cock.

reactant | GDMA | 556.8 g, 5.15 eq. | C(COC(=O)CS)OC(=O)CS | C6H10O4S2
reactant | Irgacure 184 | 1.5 g | C1CCC(CC1)(C(=O)C2=CC=CC=C2)O | C13H16O2
product | GDMA Methacrylic Acid | C(COC(=O)CS)OC(=O)CS.C(C(=C)C)(=O)O | InChI=1S/C6H10O4S2.C4H6O2/c7-5(3-11)9-1-2-10-6(8)4-12;1-3(2)4(5)6/h11-12H,1-4H2;1H2,2H3,(H,5,6)
